US08389508B2
1,3-dibromo-2-ethylbenzene
To a three litre neck round flask charged with 19.30 g of diisopropylamine and 110 mL of THF was added 76 mL of n-BuLi in hexane (2.5 M) in dropwise at −70° C. After addition was finished, the resulting mixture was stirred at the same temp. for 10 min. In another 500 mL three neck round flask, 25 g of 1,3-dibromobenzene and 49.6 g of ethyl iodide was mixed well and cooled to −70° C. The freshly prepared LDA was introduced dropwise to above mixture below −65° C. After the addition was finished, the resulting mixture was stirred for 4 h at the same temp. GCMS showed that the desired product was formed. The reaction was warmed to 0° C. in 30 mins. To the reaction mixture was added 100 mL of sat. ammonium chloride solution to quench the reaction.

reactant | diisopropylamine | 19.30 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 76 mL | [Li]CCCC
reactant | 1,3-dibromobenzene | 25 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | ethyl iodide | 49.6 g | C(C)I | C2H5I
reactant | LDA | [Li+].CC(C)[N-]C(C)C
solvent | hexane | 2.5 M | CCCCCC | C6H14
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 1,3-dibromo-2-ethylbenzene | BrC1=C(C(=CC=C1)Br)CC | C8H8Br2
